US04178449
8-Methyl-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine
A solution of 0.010 mole of 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylic acid in tetrahydrofuran is added dropwise to a 0.02 molar solution of diborane in tetrahydrofuran chilled in an ice bath. The mixture is allowed to warm to room temperature and stand overnight. The mixture is poured onto ice and extracted with methylene chloride. The methylene chloride extract is washed with water and dried (MgSO4). The solvent is removed under reduced pressure to give the product of the example.

reactant | 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylic acid | 0.010 mole | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)O)(F)F | C14H8F3N3O2
reactant | diborane | B#B | B2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-Methyl-4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine | CC=1N=CN2C1N=CC=C2C=2C=C(C=CC2)C(F)(F)F | C14H10F3N3
